US08207134B2
2) Synthesis of N-(3-bromo-4-methylphenyl)-N-(2,2-diethoxyethyl)benzenesulfonamide
Under a nitrogen stream, benzenesulfonyl chloride (3.12 mL g, 24.48 mmol) was added dropwise under ice cooling to a mixture of (3-bromo-4-methylphenyl)-(2,2-diethoxyethyl)-amine (4.91 g, 16.25 mmol), pyridine (10.1 mL, 124.88 mmol) and dichloromethane (41 mL), and the resultant mixture was then stirred at the same temperature for 1 hour. After stirring at room temperature for 2 hours, the reaction mixture was added to saturated aqueous sodium hydrogen carbonate. The resultant mixture was extracted with dichloromethane. The organic layer was washed with 5% aqueous hydrochloric acid and dried (anhydrous potassium carbonate). Solvent was then removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:4)), to thereby obtain the titled compound (5.94 g, 83%).

reactant | benzenesulfonyl chloride | 24.48 mmol, 3.12 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | (3-bromo-4-methylphenyl)-(2,2-diethoxyethyl)-amine | 16.25 mmol, 4.91 g | BrC=1C=C(C=CC1C)NCC(OCC)OCC | C13H20BrNO2
reactant | pyridine | 124.88 mmol, 10.1 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 41 mL | ClCCl | CH2Cl2
product | N-(3-bromo-4-methylphenyl)-N-(2,2-diethoxyethyl)benzenesulfonamide | 5.94 g, 83% | BrC=1C=C(C=CC1C)N(S(=O)(=O)C1=CC=CC=C1)CC(OCC)OCC | C19H24BrNO4S
